US06498170B2
Methanesulfonic acid 1-(4-butoxy-benzenesulfonyl)-pyrrolidin-3-yl ester
To a solution of 1-(4-Butoxy-benzenesulfonyl)-pyrrolidin-3-ol (1.50 g, 5 mmol) in dichloromethane (8 ml) was added triethylamine (0.61 g, 6 mmol) and cooled to 0° C. A solution of methanesulfonyl chloride (0.46 ml, 6 mmol) in dichloromethane (2 ml) was then introduced slowly, and the resulting suspension was stirred at 0° C. for 15 min., and at room temperature for 2 h. The solvent was evaporated, and the residue was stirred with 10 ml of water, 5 ml of saturated sodium carbonate solution, and 20 ml of hexanes. The resulting suspension was filtered, and the precipitate was washed with water and hexanes, and dried to give 1.88 g of a white solid; m.p. 80-81° C.; MS (ES) m/z 377.9 (MH+); HRMS (El) Calcd. for C15H23NO6S2 (M+): 377.0967, Found: 377.0969.

reactant | 1-(4-Butoxy-benzenesulfonyl)-pyrrolidin-3-ol | 5 mmol, 1.50 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1CC(CC1)O | C14H21NO4S
reactant | triethylamine | 6 mmol, 0.61 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6 mmol, 0.46 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Methanesulfonic acid 1-(4-butoxy-benzenesulfonyl)-pyrrolidin-3-yl ester | 1.88 g | C(CCC)OC1=CC=C(C=C1)S(=O)(=O)N1CC(CC1)OS(=O)(=O)C | C15H23NO6S2
